US06489344B1
Preparation of 2-Benzimidazolyl-1-(2,4-dichlorophenyl)-3-(dimethylamino)prop-2-en-1-one
Made using the same procedure as for 1-(2,4-dichlorophenyl)-3-(dimethylamino)-2-pyrazolylprop-2-en-1-one except that 2-benzimidazolyl-1-(2,4-dichlorophenyl)ethan-1-one (V, 1.0 g, 3.3 mmol) was used. The crude residue was used without purification.

reactant | 1-(2,4-dichlorophenyl)-3-(dimethylamino)-2-pyrazolylprop-2-en-1-one | ClC1=C(C=CC(=C1)Cl)C(C(=CN(C)C)C1=NNC=C1)=O | C14H13Cl2N3O
reactant | 2-benzimidazolyl-1-(2,4-dichlorophenyl)ethan-1-one | 3.3 mmol, 1.0 g | N1=C(NC2=C1C=CC=C2)CC(=O)C2=C(C=C(C=C2)Cl)Cl | C15H10Cl2N2O
product | 2-Benzimidazolyl-1-(2,4-dichlorophenyl)-3-(dimethylamino)prop-2-en-1-one | N1=C(NC2=C1C=CC=C2)C(C(=O)C2=C(C=C(C=C2)Cl)Cl)=CN(C)C | C18H15Cl2N3O
